US05366987
(a) 4-(1-Dodecenyl)-1-(triphenylmethyl) imidazole
A solution of n-BuLi (4.1 mL, 6.5 mmol, 1.6M in hexanes) was added dropwise to a suspension of n-undecyl-triphenylphosphonium bromide (3.09 g, 6.2 mmol, obtained from triphenylphosphine and undecylbromide) in 100 mL THF at -78° C. under an atmosphere of N2. The resulting orange solution was stirred for 45 minutes before a solution of 1-(triphenylmethyl)-4-imidazolecarboxaldehyde (2.0 g, 5.9 mmol, Ref: Kelly J. L., Miller C. A., and McLean E. W., J. Med. Chem. 1977; 20: 721) in 75 mL THF was added dropwise. Warmed to room temperature and stirred for 16 hours. Quenched by adding 50 mL saturated NH4Cl solution and concentrating in vacuo. The residue was partitioned between water and dichloromethane. The organic layer was dried over MgSO4, filtered, and concentrated to give a yellow oil. Chromatography (10% EtOAc/hexanes on silica) gave the title compound (1.8 g, 64%) as a clear oil.

reactant | n-BuLi | 6.5 mmol, 1.6M, 4.1 mL | [Li]CCCC
reactant | n-undecyl-triphenylphosphonium bromide | 6.2 mmol, 3.09 g | [Br-].C(CCCCCCCCCC)[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | 1-(triphenylmethyl)-4-imidazolecarboxaldehyde | C1(=CC=CC=C1)C(N1C=NC(=C1)C=O)(C1=CC=CC=C1)C1=CC=CC=C1 | C23H18N2O
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | THF | 75 mL | C1CCOC1 | C4H8O
product | 4-(1-Dodecenyl)-1-(triphenylmethyl) imidazole | 1.8 g, 64% | C(=CCCCCCCCCCC)C=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C34H40N2
